US05773530
To a suspension of sodium hydride (1.92 g, 60% in Oil) in a mixture of tetrahydrofuran (200 ml) and N,N-dimethylformamide (50 ml) was added dropwise ethyl 3-(benzyloxycarbonylamino)propionate (10 g) at 30° C. under nitrogen atmosphere, which was stirred for 30 minutes. To the reaction mixture was added methyl iodide (3 ml) and stirred for additional 6 hours. To the resulting mixture was added carefully water (5 ml), which was poured into a mixture of ethyl acetate (500 ml), n-hexane (150 ml) and water (100 ml). Organic layer was separated, washed in turn with water (100 ml×3), 1N-aqueous hydrochloric acid (100 ml), brine (100 ml), saturated sodium hydrogen carbonate in water (100 ml) and brine (100 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (250 ml) eluting in turn with n-hexane, 10%, 50% ethyl acetate in n-hexane to give ethyl 3-(N-benzyloxycarbonyl-N-methylamino)propionate (8.32 g).

reactant | sodium hydride | 1.92 g | [H-].[Na+]
reactant | ethyl 3-(benzyloxycarbonylamino)propionate | 10 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)OCC | C13H17NO4
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | n-hexane | 150 ml | CCCCCC | C6H14
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | ethyl 3-(N-benzyloxycarbonyl-N-methylamino)propionate | 8.32 g | C(C1=CC=CC=C1)OC(=O)N(C)CCC(=O)OCC | C14H19NO4
